US07919488B2
1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-amine
The title compound was prepared as in Example 7, except [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid (3.40 g, 10.93 mmol) and tert-butyl piperidin-4-ylcarbamate (2.36 g, 12.02 mmol) were used. The title compound was isolated as an off-white solid, 3.8 g, 90%. 1H NMR (400 MHz, DMSO-D6) δ ppm 8.53 (d, 2 H), 7.66 (d, 2 H), 7.30 (t, 2 H), 7.14 (t, 2 H), 6.51 (s, 1 H), 5.16 (q, 2 H), 4.09 (d, 1 H), 3.94 (s, 2 H), 3.78 (d, 1 H), 3.07 (t, 1 H), 2.68-2.83 (m, 2 H), 1.63-1.79 (m, 2 H), 1.13-1.28 (m, 1 H), 0.99-1.12 (m, 1 H); m/z (APCI+) for C22H24N5OF 394.2 (M+H)+.

reactant | [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid | 10.93 mmol, 3.40 g | FC1=CC=C(CC2=CC(=NN2CC(=O)O)C2=CC=NC=C2)C=C1 | C17H14FN3O2
reactant | tert-butyl piperidin-4-ylcarbamate | 12.02 mmol, 2.36 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-amine | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)N)C2=CC=NC=C2)C=C1 | C22H24FN5O
